US08314109B2
To a suspension of 2 g of 5-iodo-6-methylpyridine-2-amine in 15 mL of dimethoxyethane are added 1.3 mL of ethyl bromopyruvate. The reaction mixture is stirred at 20° C. for 16 hours and then concentrated to dryness, taken up in 15 mL of ethanol, refluxed for 2.5 hours and finally concentrated under reduced pressure. The residue is taken up in a mixture of dichloromethane and saturated sodium bicarbonate solution. The organic phase is dried over magnesium sulfate and concentrated to dryness under reduced pressure to give 2.77 g of ethyl 6-iodo-5-methyl(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate in the form of a beige-coloured solid.

reactant | 5-iodo-6-methylpyridine-2-amine | 2 g | IC=1C=CC(=NC1C)N | C6H7IN2
reactant | ethyl bromopyruvate | 1.3 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
product | ethyl 6-iodo-5-methyl(pyrid-2-yl)imidazo[1,2-a]pyridine-2-carboxylate | 2.77 g | IC=1C=CC=2N(C1C)C(=C(N2)C(=O)OCC)C2=NC=CC=C2 | C16H14IN3O2
